US07465726B2
4-[4-(1-Ethyl-1H-pyrazol-4-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
A mixture of 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (110 mg, 0.33 mmol) and 1-ethyl-4-amino-1H-pyrazole (44 mg, 0.39 mmol) in 1-butanol (3 mL) was heated at 120° C. overnight, LC-MS showed the desired product and some de-Boc product. After the mixture was cooled to rt, it was diluted with methylene chloride (3 ml), then N,N-diisopropylethylamine (0.11 mL, 0.66 mmol) and di-tert-butyldicarbonate (72 mg, 0.33 mmol) were added, the resulting mixture was stirred at rt for 30 min. The mixture was diluted with EtOAc (30 mL), then washed with brine (20 mL), and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was crystallized with EtOAc to give the title compound as an off-white solid. LC-MS (ES, Pos.): 410 [MH+]. 1H NMR (CDCl3, 400 MHz): δ=1.51 (s, 9H), 1.56 (t, J=7.3 Hz, 3H), 2.50 (m, 2H), 3.66 (m, 2H), 4.16 (m, 2H), 4.22 (q, J=7.3 Hz, 2H), 6.04 (s, 1H), 6.17 (s, 1H), 6.57 (s, 1H), 7.56 (s, 1H), 7.95 (s, 1H), 8.38 (s, 1H), 10.96 (br s, 1H).

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.33 mmol, 110 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2Cl)N1 | C16H19ClN4O2
reactant | 1-ethyl-4-amino-1H-pyrazole | 0.39 mmol, 44 mg | C(C)N1N=CC(=C1)N | C5H9N3
solvent | 1-butanol | 3 mL | C(CCC)O | C4H10O
product | 4-[4-(1-Ethyl-1H-pyrazol-4-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC=2C=NN(C2)CC)N1 | C21H27N7O2
